US08372867B2
A solution of N-(4-formylbenzyl)acetamide (1.7 g), hydroxylamine hydrochloride (1.0 g) and sodium acetate (1.0 g) in ethanol (10 mL) and water (6 mL) was stirred for one hour at room temperature. After the reaction solution was diluted with t-butylmethylether, the solution was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to yield crude N-{4-[(hydroxyimino)methyl]-benzyl}acetamide (1.8 g).

reactant | N-(4-formylbenzyl)acetamide | 1.7 g | C(=O)C1=CC=C(CNC(C)=O)C=C1 | C10H11NO2
reactant | hydroxylamine hydrochloride | 1.0 g | Cl.NO
reactant | sodium acetate | 1.0 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 6 mL | O | H2O
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
product | N-{4-[(hydroxyimino)methyl]-benzyl}acetamide | 1.8 g | ON=CC1=CC=C(CNC(C)=O)C=C1 | C10H12N2O2
